data/mechanism_extracts/ChinChemLett/10.1016_j.cclet.2020.09.041.json
{"doi": "10.1016_j.cclet.2020.09.041", "journal": "ChinChemLett", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular aminoazidation of 2-vinylanilines (N-Ts) with NaN3 to give 3-azido-indolines via an iodonium-ion intermediate", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of iodide (I-) to molecular I2, which then forms an iodonium ion with the styrenyl alkene; the cathode reduces protons to H2", "key_intermediates": [{"name": "molecular iodine (I2) generated at anode from I-", "smiles": "II", "role": "reactive"}, {"name": "iodonium ion of 2-vinyl-N-tosyl aniline (A)", "smiles": null, "role": "reactive"}, {"name": "rearranged/opened iodonium intermediate B", "smiles": null, "role": "transient"}, {"name": "cyclized indolinium cation C (after intramolecular N-attack)", "smiles": null, "role": "reactive"}, {"name": "3-iodo-indoline D (after deprotonation)", "smiles": null, "role": "reactive"}, {"name": "3-azido-indoline product 3a (after SN2 by azide on D)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes I- to I2; I2 adds to the styrene alkene of 1a forming an iodonium ion, which is opened by intramolecular nucleophilic attack of the tosylamide nitrogen to give a 3-iodo-indoline after deprotonation; azide then displaces iodide via SN2 to give the 3-azido-indoline, while the cathode reduces protons to H2.", "rate_determining_step": "Slow electrochemical generation of I2 from I- (matching the rate of iodonium formation with intramolecular amine cyclization to suppress competing direct amine addition)", "probe_reagents": [{"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Addition of BHT did not decrease the yield (3a obtained in 72%), indicating no radical intermediate is involved"}, {"name": "I2 (stoichiometric, no electricity)", "smiles": "II", "purpose": "intermediate_trap", "observation": "1 equiv I2 with HOAc in CH3CN:H2O at 25 °C gave 3a in 47%, supporting I2 as the active species but showing direct I2 addition is less efficient than slow electrogeneration"}], "evidence_types_used": ["intermediate_trap_BHT", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors argue that under direct I2 catalysis, rapid iodonium formation outpaces intramolecular amine cyclization (aniline competes via nucleophilic addition first), lowering yield; slow electrogeneration of I2 from I- matches the cyclization rate and suppresses this side pathway. No radical pathway is supported by the BHT experiment."}
